US07112582B2
Step 2: 5-(4-Nitrobenzyloxycarbonyl)-3-oxo-3a,4,6,7-tetrahydro-3H-2-oxa-1,5-diaza-7a-azoniainden-3a-ide
The THF (10 mL) solution of trifluoroacetic anhydride (24.0 g) was added to the THF (371 mL) solution of crude 4-nitrosopiperazine-1,3-dicarboxylic acid 1-(4-nitrobenzyl) ester under a nitrogen atmosphere at 0° C. for 15 min. The solution was stirred for 1.5 h at 0° C. and for 1 h at room temperature. The THF (5 mL) solution of trifluoroacetic anhydride (8.0 g) was added to the solution for 5 min and stirred for 20 h at room temperature. To the solution was added trifluoroacetic anhydride (8.0 g) for 5 min and the solution was stirred for 4 h. The precipitate was filtered and washed with THF and Et2O. The filtrate was concentrated under reduced pressure. The residue was triturated with THF, filtered and washed with Et2O. These materials were combined and dried under reduced pressure to afford the titled compound as colorless crystals (22.3 g, 91%).

reactant | trifluoroacetic anhydride | 24.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-nitrosopiperazine-1,3-dicarboxylic acid 1-(4-nitrobenzyl) ester | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC(N(CC2)N=O)C(=O)O)C=C1 | C13H14N4O7
reactant | trifluoroacetic anhydride | 8.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 8.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 371 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(4-Nitrobenzyloxycarbonyl)-3-oxo-3a,4,6,7-tetrahydro-3H-2-oxa-1,5-diaza-7a-azoniainden-3a-ide | 22.3 g, 91% | [N+](=O)([O-])C1=CC=C(COC(=O)N2C[C-]3C(ON=[N+]3CC2)=O)C=C1 | C13H12N4O6
